US04120969
4-{[4-(4-Chlorophenyl)-4-hydroxy-1-piperidinyl]methyl}-1-methyl-3,3-diphenyl-2-pyrrolidinone Fumarate
To a steel bomb was added 17.0 g. (0.057 mole) of 4-chloromethyl-1-methyl-3,3-diphenyl-2-pyrrolidinone in 150 ml. of ethanol, 12.0 g. (0.057 mole) of 4-(p-chlorophenyl)-4-hydroxypiperidine and 21.2 g. (0.17 mole) of finely ground potassium carbonate. The mixture was heated with stirring to 200° C. for 48 hours. After concentrating the mixture in vacuo, the residue was partitioned between dilute hydrochloric acid solution and isopropyl ether. The ether was discarded, the acid solution was made basic with 50 percent sodium hydroxide solution and the base insoluble material was extracted with chloroform. The chloroform was dried, filtered and concentrated in vacuo. The residue was dissolved in a mixture of isopropyl ether and isopropanol and treated with an equivalent of fumaric acid. The fumarate salt was recrystallized twice from ethanol and once from isopropanol-methanol. The fumarate salt (2.0 g., 10%) melted at 213°-215° C.

reactant | 4-chloromethyl-1-methyl-3,3-diphenyl-2-pyrrolidinone | 0.057 mole | ClCC1C(C(N(C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18ClNO
reactant | 4-(p-chlorophenyl)-4-hydroxypiperidine | 0.057 mole | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-{[4-(4-Chlorophenyl)-4-hydroxy-1-piperidinyl]methyl}-1-methyl-3,3-diphenyl-2-pyrrolidinone Fumarate | C(\C=C\C(=O)O)(=O)O.ClC1=CC=C(C=C1)C1(CCN(CC1)CC1C(C(N(C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1)O | InChI=1S/C29H31ClN2O2.C4H4O4/c1-31-20-25(21-32-18-16-28(34,17-19-32)22-12-14-26(30)15-13-22)29(27(31)33,23-8-4-2-5-9-23)24-10-6-3-7-11-24;5-3(6)1-2-4(7)8/h2-15,25,34H,16-21H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
